US07419984B2
To a solution of 4-chloro-1-ethyl-2-iodo-benzene (5 g, 18.8 mmol) in anhydrous tetrahydrofuran (40 ml), cooled to −30° C., was added isopropyl magnesium chloride (2 M in tetrahydrofuran, 10 ml, 20 mmol) dropwise. After stirring at −30° C. for 30 minutes, trimethyl borate (4.2 ml, 38 mmol) was added dropwise and the mixture was stirred for 1.5 hours. The mixture was treated with hydrochloric acid (1 M, 25 ml), ethyl acetate (100 ml), and saturated aqueous sodium chloride solution (100 ml). The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was treated with hexane (50 ml) and the solid was filtered to afford 5-chloro-2-ethyl-phenyl boronic acid (1.8 g, 52% yield) as a white powder.

reactant | 4-chloro-1-ethyl-2-iodo-benzene | 18.8 mmol, 5 g | ClC1=CC(=C(C=C1)CC)I | C8H8ClI
reactant | isopropyl magnesium chloride | 20 mmol, 2 M, 10 ml | C(C)(C)[Mg]Cl
reactant | trimethyl borate | 38 mmol, 4.2 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1 M, 25 ml | Cl | ClH
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-ethyl-phenyl boronic acid | 1.8 g, 52% yield | ClC=1C=CC(=C(C1)B(O)O)CC | C8H10BClO2
